US07476665B2
Step D. 3-(2-Aminoethyl)-2-aminopyridine
A solution of 3-(2-azidoethyl)-2-nitropyridine (0.190 g, 0.98 mmol) in methanol (5 mL) was stirred at 20° C. with 10% palladium on carbon (50 mg) under 1 atm hydrogen for 96 h. The mixture was filtered through celite and the filtrate concentrated to give the title compound (0.122 g).

reactant | 3-(2-azidoethyl)-2-nitropyridine | 0.98 mmol, 0.190 g | N(=[N+]=[N-])CCC=1C(=NC=CC1)[N+](=O)[O-] | C7H7N5O2
reactant | hydrogen | [H][H] | H2
solvent | methanol | 5 mL | CO | CH4O
catalyst | palladium on carbon | 50 mg | [Pd] | Pd
product | 3-(2-Aminoethyl)-2-aminopyridine | 0.122 g | NCCC=1C(=NC=CC1)N | C7H11N3
